US05280032
3.5 g of (R)-1-(benzo[b]thiophen-5-yl)-2-bromoethanol was dissolved in a mixed solvent of 20 ml of methanol and 10 ml of tetrahydrofuran. Thereto was added a solution of 1.5 g of potassium hydroxide dissolved in 5 ml of water, with ice cooling. The resulting mixture was stirred for 5 minutes at the same temperature and further for 10 minutes at room temperature. The reaction mixture was added to a mixture of 60 ml of diethyl ether and 60 ml of ice water. The organic layer was separated. The aqueous layer was extracted with 30 ml of diethyl ether. The extract was combined with the previously separated organic layer. The combined organic layer was washed with water and a saturated aqueous sodium chloride solution in this order, and dried over anhydrous magnesium sulfate. The solvent was removed by distillation under reduced pressure to obtain 1.9 g of (R)-2-(benzo[b]thiophen-5-yl)oxirane.

reactant | (R)-1-(benzo[b]thiophen-5-yl)-2-bromoethanol | 3.5 g | S1C2=C(C=C1)C=C(C=C2)[C@H](CBr)O | C10H9BrOS
reactant | potassium hydroxide | 1.5 g | [OH-].[K+]
reactant | diethyl ether | 60 ml | C(C)OCC | C4H10O
solvent | methanol | 20 ml | CO | CH4O
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
solvent | water | 5 ml | O | H2O
product | (R)-2-(benzo[b]thiophen-5-yl)oxirane | 1.9 g | S1C2=C(C=C1)C=C(C=C2)[C@H]2OC2 | C10H8OS
